US07348017B2
Ethyl(3-amino-4-hydroxyphenyl)acetate is reacted with 4-methoxybenzene sulfonyl chloride in chloroform in the presence of triethylamine, to give ethyl 2-[4-hydroxy-3-[[(4-methoxyphenyl)sulfonyl]amino]phenyl]acetate.

reactant | Ethyl(3-amino-4-hydroxyphenyl)acetate | C(C)OC(CC1=CC(=C(C=C1)O)N)=O | C10H13NO3
reactant | 4-methoxybenzene sulfonyl chloride | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[4-hydroxy-3-[[(4-methoxyphenyl)sulfonyl]amino]phenyl]acetate | OC1=C(C=C(C=C1)CC(=O)OCC)NS(=O)(=O)C1=CC=C(C=C1)OC | C17H19NO6S
